Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I heard that my behavior was inappropriate"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with one previous psychiatric 
hospitalization for amphetamine-induced psychotic disorder was 
brought in by EMS after family contacted police due to patient's 
bizarre behavior. Per report, patient went to see his girlfriend 
who lives in ___ following an argument with him, 
girlfriend called his mother, who came to girlfriend's house. 
Mother attempted to bring patient home, but patient started 
taking off his clothes in the street; police were called. On 
initial interview, patient exhibited persistent disorganized 
thought process and offered limited detail or insight in to the 
events preceding arrival to ED. Patient recalled going to his 
girlfriend's house, discussing their future living arrangement 
(indicate that they were planning on moving in together), but 
ultimately getting into an argument. Stated, "Things dissolved 
from there...I heard that my behavior was  inappropriate, but I 
don't recall doing the things that they said I did...It seems 
that a lot of things were going on that I was confused about." 
Patient recalled that his mother and step-father arrived to take 
him home, but he "wouldn't do it." Did not recall taking off his 
clothes. 
.
Patient denied significant changes in mood or mentation recently 
or within the last several weeks. Denied recent depressed mood 
or suicidal ideation. Reported improved future outlook after he 
received notice that he passed the bar exam; however, denied 
recent disturbed sleep, elevated goal-directed behavior, or 
pressured speech. Also denied recent perceptual disturbances or 
psychotic symptoms; recalled that he was admitted for substance 
induced psychosis ___ years ago, but denied recent stimulant 
use. Did report use of CBD vaping oil beginning a couple of 
months ago. Denied other illicits.
 
Past Medical History:
Past psychiatric history notable for previous diagnosis of
depression and anxiety. Reported one previous hospitalization in
___ for amphetamine-induced psychosis; did not recall
previous antipsychotic trials. Started outpatient therapy and 
psychopharm following this admission; has been on Wellbutrin and 
Zoloft for ___ denied side effects and reported 
relative improvement in mood. Current providers through ___ 
Counseling ___. Had an appointment scheduled for 
___, but was rescheduled due to insurance lapse. Expressed 
willingness to remain in outpatient treatment. Denied history of 
suicidal ideation, suicide attempts, or self-injurious behavior. 
Denied history of assault or harm towards others.
 
Social History:
___
Family History:
Family psychiatric history notable for paternal grandmother with 
schizophrenia but absent for any known completed suicides.
 
Physical Exam:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants.  No guarding, no 
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.
.
Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor 
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.
.
Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3 
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the 
other side" appropriately
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
.
Mental Status:
-Appearance: ___ year old man appearing stated age, well groomed, 
wearing hospital gown, in no apparent distress
-Behavior: Sitting up in bed, appropriate eye contact, no 
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: "Stable"
-Affect: Mood-congruent, full range, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Fair
-Judgment: Fair
 
Pertinent Results:
___ 06:39AM BLOOD WBC-8.1 RBC-4.65 Hgb-13.4* Hct-40.6 
MCV-87 MCH-28.8 MCHC-33.0 RDW-12.9 RDWSD-40.5 Plt ___

___ 06:39AM BLOOD ALT-13 AST-12 LD(LDH)-148 AlkPhos-60 
TotBili-0.5

___ 06:39AM BLOOD %HbA1c-5.4 eAG-108

___ 06:39AM BLOOD Triglyc-70 HDL-50 CHOL/HD-3.7 LDLcalc-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.
.
2. PSYCHIATRIC:
On admission to unit, patient exhibited linear thought process 
with no evidence of persisting psychosis. Patient stated that he 
currently felt well, adding that he did not fully remember the 
episode precipitating his admission. However, he did recall that 
his mother and girlfriend were concerned about his behavior and 
ultimately contacted police/EMS. Patient was agreeable to trial 
of low-dose risperidone (1mg BID) which he tolerated with 
minimal side effect (e.g. sedation). Given the rapid improvement 
in symptoms from initial presentation in ED to interview with 
treatment team, patient's presentation appeared most consistent 
with substance-induced psychotic episode (use of CBD oil), 
exacerbated by situational stressors related to housing and 
finding work. Differential also  included primary psychotic 
disorder (notably patient has a family member with 
schizophrenia, but given acute onset and preserved premorbid 
functioning, a primary psychotic disorder was less likely.
.
Patient was also restarted on home Zoloft and Wellbutrin; 
initially patient indicated that would like to evaluate his 
baseline mood/anxiety without these medications. However, 
collateral from mother regarding patient's severity of 
depressive symptoms prior to treatment with both medications 
supported ongoing treatment with both antidepressants. Patient 
was amenable. Patient was also amenable to continuing low-dose 
risperidone for at least 6 months to prevent psychotic symptom 
re-emergence.
.
On day of discharge, patient exhibited mood congruent euthymic 
affect, linear thought process, and thought content absent for 
delusional or paranoid beliefs. There was no evidence of ongoing 
internal preoccupation, and patient denied current perceptual 
disturbances. Patient consistently denied current or recent 
suicidal ideation or thoughts/urges to engage in self-harm or 
harm of others. Judgment and insight improved. 
.
3. SUBSTANCE USE DISORDERS:
#) Provided psychoeducation to patient regarding use of 
marijuana/CBD oil and the associated risk of psychosis. Patient 
expressed understanding and an interest in cutting back on his 
use of these substances.
.
4. MEDICAL
#) No medical issues addressed during visit. See above for 
values related to metabolic monitoring for antipsychotic use. 
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. Patient noted to interact well 
with other staff members and patients.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Mother ___ ___ and girlfriend (___) attended 
family meeting on day prior to discharge; both verbalized 
support of treatment plan.
.
#) INTERVENTIONS
- Medications: Risperidone, Sertraline, Buproprion
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Scheduled appointments with PCP, ___ 
medication provider; appointment with therapist to be scheduled 
directly by patient.
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
Psychoeducation regarding CBD use, sleep and social stressors as 
precipitants of psychotic episodes.
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Risperdal, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
disorganized behavior, mood lability, disorientation. His static 
factors noted at that time include history of chronic mental 
illness (depression), history of substance abuse, male gender, 
and Caucasian race. The modifiable risk factors (psychosis, 
disorganized and unpredictable behavior, difficulty sleeping, 
recent substance use) were also addressed at that time through 
medication, psychoeducation, inpatient group therapy, and family 
support meetings. Finally, the patient is being discharged with 
many protective risk factors, including medication adherence, 
close follow-up with outpatient providers, and family support.  
Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 
2. BuPROPion XL (Once Daily) 300 mg PO DAILY 

 
Discharge Medications:
1.  RisperiDONE 1 mg PO BID 
RX *risperidone [Risperdal] 1 mg 1 tablet(s) by mouth two times 
per day Disp #*28 Tablet Refills:*0 
2.  BuPROPion XL (Once Daily) 300 mg PO DAILY 
RX *bupropion HCl 300 mg 1 tablet(s) by mouth daily in the 
morning Disp #*14 Tablet Refills:*0 
3.  Sertraline 100 mg PO DAILY 
RX *sertraline 100 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Substance Induced Psychosis
Cannabis Use Disorder

 
Discharge Condition:
VS:97.7 PO, 123 / 81, 66, 17, 98% 
MSE: Age appearing man, bespectacled, casually dressed, in no 
acute distress. Calm, cooperative with interview; no behavioral 
disturbances. Mood is 'better;' affect is euthymic, stable, 
congruent. Thought process is linear without loosening; thought 
content absent for any delusional beliefs. No evidence of 
internal preoccupation. Denies current suicidal ideation or 
thoughts/urges to engage in self-harm or harm to others. 
Judgment and insight improved.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___